US07691882B2
4-Butoxymethyl-phenyl-acetohydroximoyl chloride
To a solution of 1-butoxymethyl-4-(2-nitroethyl)-benzene (55 mg, 0.23 mmol) described in Manufacturing Example 4-1-3 in methanol (2 mL) was added sodium methoxide (1.49 M methanol solution, 47.3 μL, 0.23 mmol) at 0° C. The reaction solution was stirred for 35 minutes at room temperature, and concentrated under a reduced pressure. To a solution of the residue in methylene chloride (2 mL) was added titanium (IV) chloride (28 μL, 0.23 mmol) under nitrogen atmosphere at −78° C., which was then stirred for 30 minutes at 0° C. The reaction solution was partitioned into water and ethyl acetate at 0° C. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the magnesium sulfate was removed by filtration. The organic layer was filtered with silica gel, and the filtrate was evaporated under a reduced pressure to obtain the title compound (59 mg, 99%) as a crude product.

reactant | 1-butoxymethyl-4-(2-nitroethyl)-benzene | 0.23 mmol, 55 mg | C(CCC)OCC1=CC=C(C=C1)CC[N+](=O)[O-] | C13H19NO3
reactant | sodium methoxide | 0.23 mmol, 1.49 M, 47.3 μL | C[O-].[Na+]
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
catalyst | titanium (IV) chloride | 0.23 mmol, 28 μL | [Ti](Cl)(Cl)(Cl)Cl
product | 4-Butoxymethyl-phenyl-acetohydroximoyl chloride | 59 mg, 99% | C(CCC)OCC1=CC=C(C=C1)CC(=NO)Cl | C13H18ClNO2
